US07977340B2
A stirred suspension of the crude 1-Ethyl-3-[5-hydroxy-7-(4-methyl-pyridin-2-yl)-benzothiazol-2-yl]-urea (38 mg, 0.116 mmol) in anhydrous dichloromethane (3 ml) was treated with anhydrous pyridine (31 mg, 0.394 mmol). The resultant solution was cooled in an ice-bath and treated with trifluoromethanesulfonic anhydride (111 mg, 0.394 mmol). After stirring at ambient temperature for 2 h, the solution was diluted with dichloromethane (75 ml), washed with water (4×25 ml), dried (MgSO4) and the solvent removed to give the crude Trifluoro-methanesulfonic acid 2-(3-ethyl-ureido)-7-(4-methyl-pyridin-2-yl)-benzothiazol-5-yl ester (44 mg, 100%) which was used without further purification.

reactant | 1-Ethyl-3-[5-hydroxy-7-(4-methyl-pyridin-2-yl)-benzothiazol-2-yl]-urea | 0.116 mmol, 38 mg | C(C)NC(=O)NC=1SC2=C(N1)C=C(C=C2C2=NC=CC(=C2)C)O | C16H16N4O2S
reactant | pyridine | 0.394 mmol, 31 mg | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 0.394 mmol, 111 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | Trifluoro-methanesulfonic acid 2-(3-ethyl-ureido)-7-(4-methyl-pyridin-2-yl)-benzothiazol-5-yl ester | 44 mg, 100% | C(C)NC(NC=1SC2=C(N1)C=C(C=C2C2=NC=CC(=C2)C)OS(=O)(=O)C(F)(F)F)=O | C17H15F3N4O4S2
